US04595677
1.6 g of Z-His-Lys(Boc)-OMe [S. Guttman et al., Helv. Chim. Acta 52, 1789 (1969)] are dissolved in 33 ml of MeOH, 3 ml of 1N HCl and 160 mg of Pd-on-carbon (10% pd) are added thereto, and hydrogenation is carried out with CO2 -absorption until saturation. After filtering off the catalyst, the whole is concentrated, the oily residue is dissolved in 20 ml of DMF and again concentrated to approximately 10 ml, yielding H-His-Lys(Boc)-OMe in the form of a solution which is immediately further processed in stage 2.2.

reactant | Z-His-Lys(Boc)-OMe | 1.6 g | N([C@@H](CC1=CNC=N1)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C26H37N5O7
reactant | HCl | 1N, 3 ml | Cl | ClH
reactant | CO2 | C(=O)=O | CO2
solvent | MeOH | 33 ml | CO | CH4O
product | H-His-Lys(Boc)-OMe | N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)OC | C18H31N5O5
